* C:\Users\nicol\Documents\Projects\lab-bench-power-supply\sim\Simetrix\ota.wxsch
*#SIMETRIX
.node_map Vref 14
.node_map Vlink 15
.print
+ ALL
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 1m 0


C8 13 0 2.4n
R11 10 0 10k
R18 15 10 805k
R20 14 10 730k
R21 12 0 100Meg
R22 12 13 8.2k
X$U5 0 12 11 10 SIMPLIS_VCCS_WITH_LIMITER vars: GAIN=1.2m IDEAL_CLAMPING=0 MIN_OUTPUT=-10 MAX_OUTPUT=10
V1 14 0 30
V2 15 0 32
V8 11 0 800m
.end
